US08957093B2
4′-((2,3-dimethyl-5-(4-(trifluoromethyl)benzylcarbamoyl)-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Steps 8-9, Example 1, using 4-trifluoromethylbenzylamine and 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. LC-MS 557 (M+H).

reactant | 4-trifluoromethylbenzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 1-((2′-(tert-butoxycarbonyl)biphenyl-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((2,3-dimethyl-5-(4-(trifluoromethyl)benzylcarbamoyl)-1H-indol-1-yl)methyl)biphenyl-2-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C)C(NCC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C33H27F3N2O3
